Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamides) / Benadryl
 
Attending: ___.
 
Chief Complaint:
No right percutaneous nephrostomy output for 1 day
 
Major Surgical or Invasive Procedure:
Changing of right PCN tube by interventional radiology 

 
History of Present Illness:
___ yo with PMH of diabetes, stage IV CKD, h/o uterine cancer s/p 
hysterecomy, s/p B nephrostomy tubes for vesicocutaneous 
fistulas, p/w no drainage of right nephrostomy tube. Pt 
initially noted minimal blood in right tube yesterday, and this 
morning no output from right kidney after switching tubing. 
Denies abd or back pain, fevers/chills, N/V. 
.
3 days ago, received routine aranesp inj for anemia of chronic 
kidney disease, felt tired as usual. T: 100.1 at home, decreased 
appetite, now much better.
.
Initial: 98.1 85 172/65 18 100. Pt was persistently hypertensive 
to 180s-190s, not treated and spontaneously improved to 160. 
Labs were sig for Cr 2.7, UA mod leuk, large blood, ___ WBC, neg 
nitrite, lactate 1.2. Pt was seen by urology - recommended admit 
to medicine, ___ eval in AM. No need for renal ultrasound. 

 
Past Medical History:
1.  Diabetes mellitus type 2 with diabetic nephropathy
2.  Anemia
3.  Depression
4.  Hypertension
5.  Urinary incontinence
6.  Low back pain
7.  Osteoarthritis
8.  Endometrial Cancer- s/p Total abdominal hysterectomy with 
bilateral salpingo-oophorectomy in ___, c/b urinary 
incontinence, previously self cathing, then developed 
vesiculocutaneous fistulas and given bilateral nephrostomy 
tubes. 
 
Social History:
___
Family History:
Cancer in brother ("abdomen"), daughter (thyroid).  DM in 
sister.
 
Physical Exam:
Vitals: T: 97.2 BP: 175/76 P: 78 R: 20 O2: 100RA 
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, ___ systolic 
ejection murmur at RUSB.
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly, central 
hernia nontender. 
BACK: No CVA tenderness, bilateral nephrostomies dressed without 
leakage. Nontender surrounding. 
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 
Neuro:  A+Ox3, able to relay history without difficulty, moves 
easily. 
 
Pertinent Results:
___ 08:15PM   GLUCOSE-169* UREA N-61* CREAT-2.7* SODIUM-140 
POTASSIUM-4.2 CHLORIDE-103 TOTAL CO2-25 ANION GAP-16
___ 08:15PM   WBC-7.9 RBC-3.78* HGB-10.3* HCT-31.4* MCV-83 
MCH-27.2 MCHC-32.8 RDW-15.3
___ 08:15PM   NEUTS-69.3 ___ MONOS-4.6 EOS-1.6 
BASOS-0.1
___ 08:15PM   PLT COUNT-203

Blood and urine cultures pending at discharge
 
Brief Hospital Course:
This is an ___ year old female with h/o endometrial cancer, s/p 
radical hysterectomy and radiation, bilateral nephrostomies for 
vesiculocutaneous fistulas post cystoscopy, presenting for no 
urine output from her right nephrostomy for 1 day. 
.
#  Nephrostomy malfunction: The patient was afebrile and in no 
pain. Left nephrostomy was putting out good urine. Creatinine 
slightly up at 2.7 from recent 2.2 although has been up to 3 in 
the past few months.  Urology saw the patient in the ED and 
recommended ___ intervention to change the nephrostomy tube.  ___ 
changed the nephrostomy tube and it was draining urine on 
discharge.  She was instructed to watch for fevers, chills, and 
abdominal pain at home and to seek medical care if she 
experiences any of these symptoms.
.  
#  Diabetes mellitus type 2 with diabetic nephropathy - The 
patient is on metformin 500mg qPM at home with a creatinine in 
the 2s.  Consider discontinuing this as an outpatient given the 
relative contraindication of metformin with an elevated 
creatinine.  She was controlled with a diabetic diet and ISS as 
an inpatient.
.
#.  Anemia: Her hemtocrit was at her baseline in the low ___.  
She recently received her monthly Aranesp.
.
#.  Depression - Continue home Remeron regimen.
.
#.  Gout - Patient is on allopurinol ___ daily.  Consider 
renally dosing at 100mg QOD as an outpatient.
.
#.  Hypertension - The patient is on lisinopril 2.5mg daily and 
her blood pressures were elevated to the 190s systolic during 
her admission.  She received a one time dose of captopril 6.25mg 
and hydralazine 5mg IV once.  Consider escalating her dose of 
lisinopril as an outpatient if HTN persists.
.
# Code: The patient was confirmed as full code during this 
admission.
 
Medications on Admission:
ALLOPURINOL ___ daily
CALCITRIOL - 0.0625 mcg twice a week
ARANESP 100 mcg/0.5 mL Syringe - inject s/c once a month
ETHACRYNIC ACID ___ daily
FLUTICASONE 50 mcg 2 sprays both nostrils daily
LISINOPRIL 2.5mg once a day
METFORMIN 500mg qpm
MIRTAZAPINE 30 mg daily
ACETAMINOPHEN 500 mg by mouth  as needed
CALCIUM CARBONATE-VITAMIN D3 600 mg-400u twice a day
FERROUS SULFATE 650mg qam and 325mg qpm
POLYCARBOPHIL CALCIUM [FIBERCON] 1250 mg twice a day

 
Discharge Medications:
1. Allopurinol ___ mg Tablet Sig: One (1) Tablet PO once a day.  

2. Ethacrynic Acid 25 mg Tablet Sig: Four (4) Tablet PO DAILY 
(Daily).  
3. Fluticasone 50 mcg/Actuation Spray, Suspension Sig: Two (2) 
Spray Nasal DAILY (Daily).  
4. Calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO twice 
weekly.  
5. Aranesp (Polysorbate) 100 mcg/0.5 mL Syringe Sig: One Hundred 
(100) mcg Injection once a month.  
6. Lisinopril 5 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
7. Metformin 500 mg Tablet Sig: One (1) Tablet PO qpm.  
8. Mirtazapine 30 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
9. Acetaminophen 500 mg Capsule Sig: One (1) Capsule PO Q6H 
(every 6 hours) as needed for pain.  
10. Calcium 600 + D(3) 600-400 mg-unit Tablet Sig: One (1) 
Tablet PO twice a day.  
11. Ferrous Sulfate 300  mg (60 mg Iron) Tablet Sig: Two (2) 
Tablet PO QAM (once a day (in the morning)).  
12. Ferrous Sulfate 300  mg (60 mg Iron) Tablet Sig: One (1) 
Tablet PO HS (at bedtime).  
13. FiberCon 625 mg Tablet Sig: Two (2) Tablet PO twice a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Dysfunctional right percutaneous nephrostomy tube, acute on 
chronic kidney injury

Secondary diagnoses:
-HTN
-DM2 with diabetic nephropathy
-anemia
-depression
-h/o endometrial cancer s/p resection

 
Discharge Condition:
Mental Status: Clear and coherent
Level of Consciousness: Alert and interactive
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane)

 
Discharge Instructions:
You were admitted to ___ for 
evaluation of a dysfunctional right nephrostomy tube.  
Interventional radiology was able to adjust the nephrostomy tube 
and it was draining urine when you were discharged.  
Incidentally, your blood pressures were found to be elevated.  
No changes were made to your home blood pressure regimen, but 
you should check your blood pressures as an outpatient to make 
sure that they are well controlled at home.  If they remain 
high, you should alert Dr. ___ to increase your blood 
pressure regimen.
.
No changes have been made to your home medication regimen.
.
Please follow-up with your previously scheduled outpatient 
appointments.
 
Followup Instructions:
___